US04582834
24.4 g of urea and 120 ml of a 25 percent ethanolic solution of sodium ethylate are added to a solution of 40.0 g of 4-dimethylamino-3-(4-methoxyphenyl)-3-buten-2-one in 120 ml of ethanol. The mixture is heated at the reflux temperature for 8 hours, then cooled to 0° C., and the reaction product is filtered off with suction and washed with cold ethanol. The residue is dissolved in water and, while cooling in ice, is neutralised with dilute hydrochloric acid. The precipitated product is filtered off with suction, washed with water and dried. 19.5 g of 5-(4-methoxyphenyl)-4-methyl-2-(1H)-pyrimidinone are obtained. Melting point 210° C.

reactant | urea | 24.4 g | NC(=O)N | CH4N2O
reactant | sodium ethylate | CC[O-].[Na+]
reactant | 4-dimethylamino-3-(4-methoxyphenyl)-3-buten-2-one | 40.0 g | CN(C=C(C(C)=O)C1=CC=C(C=C1)OC)C | C13H17NO2
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 5-(4-methoxyphenyl)-4-methyl-2-(1H)-pyrimidinone | 19.5 g | COC1=CC=C(C=C1)C=1C(=NC(NC1)=O)C | C12H12N2O2
